US07273865B2
To a stirred solution of 145 mg (0.38 mmol) (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-carbamic acid phenyl ester in 6 ml dichloroethane and 2 ml tetrahydrofuran at room temperature was added 0.16 ml (1.88 mmol) morpholine and stirring continued at 50° C. for 16 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (ethyl acetate/heptane) followed by trituration in ether afforded 48 mg (34%) morpholine-4-carboxylic acid (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-amide as a white crystalline solid. ES-MS m/e (%): 380 (M+H+, 100).

reactant | (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-carbamic acid phenyl ester | 0.38 mmol, 145 mg | C1(=CC=CC=C1)OC(NC=1SC=2C(=NC=C(C2N1)OC)N1CCOCC1)=O | C18H18N4O4S
reactant | morpholine | 1.88 mmol, 0.16 ml | N1CCOCC1 | C4H9NO
solvent | dichloroethane | 6 ml | ClC(C)Cl | C2H4Cl2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | morpholine-4-carboxylic acid (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-amide | 48 mg, 34% | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)NC(=O)N2CCOCC2 | C16H21N5O4S
